US07342115B2
A mixture of 2-(2,6-diethyl-phenyl)-4-methoxy-5-(1-propyl-but-1-enyl)-pyridine (20 mg) and 10% Pd/C (20 mg) in MeOH (1 mL) is hydrogenated at 50 psi overnight. The mixture is filtered through celite and washed with MeOH. The filtrate is concentrated to give 2-(2,6-diethyl-phenyl)-4-methoxy-5-(1-propyl-butyl)-pyridine. 1H NMR (CDCl3) 8.29 (s, 1H), 7.26 (d, 1H), 7.13 (d, 2H), 6.71 (s, 1H), 3.81 (s, 3H), 3.00 (m, 1H), 2.37 (m, 4H), 1.65 (m, 4H), 1.23 (m, 4H), 1.07 (t, 6H), 0.86 (t, 6H).

reactant | 2-(2,6-diethyl-phenyl)-4-methoxy-5-(1-propyl-but-1-enyl)-pyridine | 20 mg | C(C)C1=C(C(=CC=C1)CC)C1=NC=C(C(=C1)OC)C(=CCC)CCC | C23H31NO
solvent | MeOH | 1 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 2-(2,6-diethyl-phenyl)-4-methoxy-5-(1-propyl-butyl)-pyridine | C(C)C1=C(C(=CC=C1)CC)C1=NC=C(C(=C1)OC)C(CCC)CCC | C23H33NO
